US05576338
2-Hydroxymethyl-6-phenylpyridine
To a solution of 2-(tert-butyldiphenylsiloxy)methyl-6-phenylpyridine (1.2 g) in THF (20 mL) was added Bu4NF (3.3 mL of a 1M solution in THF). After 1 h, NH4OAc buffer was added and the mixture extracted with EtOAc. The organics were dried (MgSO4), concentrated and chromatographed (silica gel; hexane/EtOAc acetate (3:2)) to provide the title compound as a solid.

reactant | 2-(tert-butyldiphenylsiloxy)methyl-6-phenylpyridine | 1.2 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC1=NC(=CC=C1)C1=CC=CC=C1 | C28H29NOSi
reactant | Bu4NF | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-Hydroxymethyl-6-phenylpyridine | OCC1=NC(=CC=C1)C1=CC=CC=C1 | C12H11NO
